US05403847
Acetoacetic acid N-[3-(4,4-diphenylpiperidin-1-yl)propyl]amide
Diketene (0.44 mL, 5.68 mmol, 1.3 equiv, Aldrich) was added at room temperature to a stirred solution of 1-(3-aminopropyl)-4-,4-diphenylpiperidine (1.288 g, 4.37 mmol, 1.0 equiv) in anhydrous toluene (15 mL) under argon, and stirring was continued for 48 hours. The mixture was concentrated to give 1.294 g (78%) of white solid, which was used for the next reaction without purification: 1H NMR (300 MHz, CDCl3)δ 1.70 (tt, J=6.4, 6.4 Hz, 2H), 2.23 (s, 3H), 2.44 (br t, J=6.5 Hz), 2.49-2.67 (m, 8H), 3.32 (br t, J=5.8 Hz), 3.36 (s, 2H) , 7.16 (m, 2H) , 7.27 (m, 8H).

reactant | Diketene | 5.68 mmol, 0.44 mL, 1.3 equiv | C=C1CC(=O)O1 | C4H4O2
reactant | 1-(3-aminopropyl)-4-,4-diphenylpiperidine | 4.37 mmol, 1.288 g, 1.0 equiv | NCCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H26N2
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | Acetoacetic acid N-[3-(4,4-diphenylpiperidin-1-yl)propyl]amide | 1.294 g, 78% | C1(=CC=CC=C1)C1(CCN(CC1)CCCNC(CC(=O)C)=O)C1=CC=CC=C1 | C24H30N2O2
